US07981893B2
SYNTHESIS OF 4-(3-(CYCLOHEXYLMETHYL)-2-OXO-2,3-DIHYDRO-1H-IMIDAZO[4,5-B]PYRAZIN-5-YL)BENZAMIDE
6-Bromo-1-(cyclohexylmethyl)-1H-imidazo[4,5-b]pyrazin-2(3H)-one. 6-Bromo-N2-(cyclohexylmethyl)pyrazine-2,3-diamine. (4.85 g, 17.01 mmol) was dissolved in THF (50 mL), 1,1′-carbonyldiimidazole (3.45 g, 21.26 mmol) was added, and the reaction solution was divided into 4 different vials. Each fraction was heated in a Biotage Emrys Optimizer microwave reactor at 120° C. for 30 min. The reacted fractions were combined and condensed under reduced pressure. The crude material was dissolved in minimal DMF and precipitated with deionized water while sonicating. The filtered product was dried in a vacuum oven at 60° C. over night to afford the title compound (4.72 g, 89%). MS (ESI) m/z 311.3 [M]+, 313.5 [M+2]+

reactant | 6-Bromo-1-(cyclohexylmethyl)-1H-imidazo[4,5-b]pyrazin-2(3H)-one | BrC1=CN=C2C(=N1)N(C(N2)=O)CC2CCCCC2 | C12H15BrN4O
reactant | 6-Bromo-N2-(cyclohexylmethyl)pyrazine-2,3-diamine | BrC1=CN=C(C(=N1)NCC1CCCCC1)N | C11H17BrN4
reactant | 1,1′-carbonyldiimidazole | 21.26 mmol, 3.45 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-(3-(CYCLOHEXYLMETHYL)-2-OXO-2,3-DIHYDRO-1H-IMIDAZO[4,5-B]PYRAZIN-5-YL)BENZAMIDE | 4.72 g, 89% | C1(CCCCC1)CN1C(NC2=NC=C(N=C21)C2=CC=C(C(=O)N)C=C2)=O | C19H21N5O2
